data/mechanisms/records/IMS4-EQ4.39.json
{"mechanism_id": "IMS4-EQ4.39", "species": [{"species_id": "n_butylacetamide_n_ionized", "mapped_smiles": "[1H:5][CH2:1][C:2](=[O:3])[NH+:4][CH2:6][CH2:7][CH2:8][CH3:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_after_rH", "mapped_smiles": "[CH2:1][C:2](=[O:3])[NH+:4]([1H:5])[CH2:6][CH2:7][CH2:8][CH3:9]", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ketene_neutral", "mapped_smiles": "[CH2:1]=[C:2]=[O:3]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "butylamine_radical_cation", "mapped_smiles": "[NH+:4]([1H:5])[CH2:6][CH2:7][CH2:8][CH3:9]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["n_butylacetamide_n_ionized"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_after_rH"]}, {"state_id": "state_products", "species_ids": ["ketene_neutral", "butylamine_radical_cation"]}], "steps": [{"step_id": "step_rH", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}], "reversible": false}, {"step_id": "step_alpha", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reversible": false}], "evidence": [{"evidence_id": "ev_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH", "support_type": "textbook_proposed", "locator": {"page": 77, "equation": "4.39", "section": "4.9 Radical site rearrangements"}, "confidence": 0.85, "curator_note": "Radical-site hydrogen rearrangement: the N-centred odd electron of the n-ionized amide abstracts an alpha (acetyl-methyl) hydrogen, giving a C-radical / even-electron ammonium-type N+ intermediate (the middle structure the book draws). Book draws 3 arcs; moves <1,2,3> are all drawn (the small hook returning one C-H electron to the methyl carbon, the large sweep carrying the other C-H electron to the forming N-H bond, and the check-mark fishhook feeding the N radical electron into that same N-H bond) - a fully depicted three-fishhook H-atom transfer, no implicit hook. The migrating hydrogen (map 5) is written as [1H] - ordinary protium with its isotope pinned, NOT deuterium - solely so RDKit's default parser retains it as a mapped atom (plain mapped [H] is stripped by removeHs), letting the C-H and N-H bond changes be bookkept."}, {"evidence_id": "ev_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha", "support_type": "textbook_proposed", "locator": {"page": 77, "equation": "4.39", "section": "4.9 Radical site rearrangements"}, "confidence": 0.85, "curator_note": "Alpha-cleavage at the new C-radical: the CH2 radical forms the ketene C=C while the adjacent C(acyl)-N bond breaks, expelling the butylamine radical cation and retaining the charge on the original (nitrogen) charge site - McLafferty's 'charge retention' path. Book draws 2 arcs; moves <1,2> are drawn (radical electron into the forming C=C, and one electron of the breaking C-N bond into that C=C), move <3> is an implicit homolysis hook required for electron balance - the other C-N electron going to nitrogen to make the departing radical cation (not drawn on the page; the product is simply written with its +. label)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 115.0997, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_73", "species_id": "butylamine_radical_cation", "step_id": "step_alpha", "observed_mz": 73.0886, "relative_intensity": 0.2, "status": "proposed", "confidence": 0.85}], "curation": {"extraction_method": "vision_multiagent", "review_status": "unreviewed"}}
